US05484942
1.13 g of N,N'-carbonyldiimidazole are added to a solution, cooled to 0° C., of 1.16 g of 2-methoxyphenylacetic acid in 20 cm3 of dry dichloromethane. The mixture is stirred for 40 minutes at 0° C. and then a solution of 2.15 g of (4aRS,7aRS)4,4-diphenylperhydrothiopyrano[2,3-c]pyrrole hydrochloride and 0.9 cm3 of triethylamine in 20 cm3 of dichloromethane is added. The reaction mixture is stirred for one hour at 0° C. and is then washed with a saturated aqueous solution of sodium hydrogen carbonate. The organic phase is dried over magnesium sulphate and concentrated to dryness under reduced pressure (2.7 kPa). The solid obtained is washed with 30 cm3 of ethyl ether and 30 cm3 of diisopropyl oxide and it is then dried under reduced pressure (2.7 kPa). 2.66 g of (4aRS,7aRS)-4,4-diphenyl-6-[(2-methoxyphenyl)acetyl]perhydrothiopyrano[2,3 -c]pyrrole are obtained in the form of a white solid; melting point 172° C.

reactant | 2-methoxyphenylacetic acid | 1.16 g | COC1=C(C=CC=C1)CC(=O)O | C9H10O3
reactant | (4aRS,7aRS)4,4-diphenylperhydrothiopyrano[2,3-c]pyrrole hydrochloride | 2.15 g | Cl.C1(=CC=CC=C1)C1(CCSC2CNCC21)C2=CC=CC=C2
reactant | triethylamine | 0.9 cm3 | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 20 cm3 | ClCCl | CH2Cl2
solvent | dichloromethane | 20 cm3 | ClCCl | CH2Cl2
product | (4aRS,7aRS)-4,4-diphenyl-6-[(2-methoxyphenyl)acetyl]perhydrothiopyrano[2,3 -c]pyrrole | 2.66 g | C1(=CC=CC=C1)C1(CCSC2CN(CC21)C(CC2=C(C=CC=C2)OC)=O)C2=CC=CC=C2 | C28H29NO2S
